US04567176
2-[2-(4-(Dimethylaminomethyl)pyrid-2-ylmethylthio)ethylamino]-1-methyl-imidazolin-4-one
2-(4-(Dimethylaminomethyl)pyrid-2-ylmethylthio)ethylamine (2.25 g), 1-methyl-2-methylthio-imidazolin-4-one hydroiodide (2.71 g) and triethylamine (2.18 g) were refluxed in ethanol (50 ml) for 6 hours.

reactant | 2-(4-(Dimethylaminomethyl)pyrid-2-ylmethylthio)ethylamine | 2.25 g | CN(C)CC1=CC(=NC=C1)CSCCN | C11H19N3S
reactant | 1-methyl-2-methylthio-imidazolin-4-one hydroiodide | 2.71 g | I.CN1C(=NC(C1)=O)SC
reactant | triethylamine | 2.18 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(4-(Dimethylaminomethyl)pyrid-2-ylmethylthio)ethylamino]-1-methyl-imidazolin-4-one | CN(C)CC1=CC(=NC=C1)CSCCNC=1N(CC(N1)=O)C | C15H23N5OS
